US04344959
Preparation of 3-[3-hydroxy-1,9-dimethoxy-5,9-dimethyl-(E)-decenylidene]-4-butyrolactone (If, R1 =CH3O, Z1 =H)
An etherealdiazomethane solution containing 0.04 moles of diazomethane is added to a solution of 2.0 g (0.006 moles) of 3-(9-methoxy-3-hydroxy-5,9-dimethyl-decanoyl)-4-butyrolactone in 5 ml of dry ether, and the reaction mixture is allowed to stand at room temperature for 4 hours. The solvent is distilled off in vacuo, the residue is taken up with ether, and the solution is filtered through a short column filled with Kieselgel 60 adsorbent. Ether is removed from the effluent to obtain 1.2 g (63.2%) of the aimed compound as a pale yellow oil; Rf =0.62 (developed with a 10:0.4 mixture of benzene and methanol).

reactant | diazomethane | 0.04 moles | [N+](=[N-])=C | CH2N2
reactant | 3-(9-methoxy-3-hydroxy-5,9-dimethyl-decanoyl)-4-butyrolactone | 0.006 moles, 2.0 g | COC(CCCC(CC(CC(=O)C1CC(=O)OC1)O)C)(C)C | C17H30O5
solvent | ether | 5 ml | CCOCC | C4H10O
product | 3-[3-hydroxy-1,9-dimethoxy-5,9-dimethyl-(E)-decenylidene]-4-butyrolactone | 1.2 g, 63.2% | O/C(=C/C(OC)=C1CC(=O)OC1)/CC(CCCC(C)(C)OC)C | C18H30O5
